US07253286B2
N-(4-(6-Cyano-7-methoxy-4-quinolyl)oxyphenyl)-N′-(1-butyl)urea
4-(4-Aminophenoxy)-6-cyano-7-methoxyquinoline (150 mg) was added to 2.5 ml of toluene and 2.5 ml of acetonitrile, and the mixture was heated to reflux. After then adding n-butyl isocyanate (0.12 ml), the mixture was further heated to reflux for 1 hour. After cooling, the precipitated solid was filtered out and washed with ethyl acetate/toluene=1/1 to obtain 110 mg of the title compound as light brown crystals (55% yield).

reactant | 4-(4-Aminophenoxy)-6-cyano-7-methoxyquinoline | 150 mg | NC1=CC=C(OC2=CC=NC3=CC(=C(C=C23)C#N)OC)C=C1 | C17H13N3O2
reactant | toluene | 2.5 ml | C1(=CC=CC=C1)C | C7H8
reactant | n-butyl isocyanate | 0.12 ml | C(CCC)N=C=O | C5H9NO
solvent | acetonitrile | 2.5 ml | C(C)#N | C2H3N
product | N-(4-(6-Cyano-7-methoxy-4-quinolyl)oxyphenyl)-N′-(1-butyl)urea | 110 mg, 55% yield | C(#N)C=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)NCCCC | C22H22N4O3
